US05648373
9-(3,4,5-Triphenyl-2-oxo-2,3-dihydroimidazol-1-yl)nonanoic acid
1,4,5-Triphenylimidazol-2-one was treated with ethyl 9-bromononanoate and potassium carbonate in butanone, followed by sodium hydroxide in ethanol and water, to give after work-up the title compound, m.p. 123°-124° C., Found:C, 76.9;H, 6.9;N, 5.7%;C30H32N2O3 requires: C, 76.9; H, 6.9; N, 6.0%

reactant | 1,4,5-Triphenylimidazol-2-one | C1(=CC=CC=C1)N1C(NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H16N2O
reactant | ethyl 9-bromononanoate | BrCCCCCCCCC(=O)OCC | C11H21BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | butanone | CC(CC)=O | C4H8O
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 9-(3,4,5-Triphenyl-2-oxo-2,3-dihydroimidazol-1-yl)nonanoic acid | C1(=CC=CC=C1)N1C(N(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCCCC(=O)O)=O | C30H32N2O3
